US06680313B2
a) 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-methanesulfonyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate (62.8 mg) was dissolved in 2 ml of dichloromethane. N,N-Diisopropylethylamine (0.040 ml) and 0.011 ml of methanesulfonyl chloride were added to the solution at −50° C. The mixture was stirred at that temperature for 40 min. The reaction solution was then diluted with dichloromethane, and the diluted solution was washed with water. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to prepare 40.9 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-methanesulfonyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | 62.8 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SCCO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O7S2
reactant | N,N-Diisopropylethylamine | 0.040 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.011 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-methanesulfonyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SCCOS(=O)(=O)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C25H26N4O9S3
